US03965193
A mixture of 100 parts of 3,3-dimethylacrolein, 200 parts of prenol and 150 parts of propionic acid is heated for three hours at 130°C, the water formed being distilled out azeotropically. The reaction product is worked up. 24 parts of citral is obtained. This is equivalent to a yield of 51°% of theory at a conversion of 26% (based on 3,3-dimethylacrolein).

reactant | 3,3-dimethylacrolein | CC(=CC=O)C | C5H8O
reactant | 3-methyl-2-buten-1-ol | CC(=CCO)C | C5H10O
reactant | propionic acid | C(CC)(=O)O | C3H6O2
solvent | water | O | H2O
product | citral | CC(C)=CCCC(C)=CC=O | C10H16O
